*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e-01[uF]/16[V]
* Murata P/N :GXT155R61C224KE01
* Property : C = 2.20e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GXT155R61C224KE01 Port1 Port2
C01 Port1 N01 1.38e-07
R01 Port1 N01 2.27e+08
L02 N01 N02 1.12e-10
R03 N02 N03 1.84e-02
C04 N03 N04 4.16e-06
R04 N03 N04 7.00e+02
C05 N04 N05 1.09e-05
R05 N04 N05 5.96e+01
C06 N05 N06 5.10e-06
R06 N05 N06 2.60e+01
C07 N06 N07 4.19e-06
R07 N06 N07 3.94e+00
C08 N07 N08 3.54e-06
R08 N07 N08 5.36e-01
C09 N08 N09 3.71e-06
R09 N08 N09 7.59e-02
C10 N09 N10 2.09e-06
R10 N09 N10 2.48e-02
L11 N10 N11 1.75e-11
R11 N10 N11 1.02e-01
L12 N11 N12 9.10e-11
R12 N11 N12 7.76e-02
C13 N12 N13 6.65e-07
L13 N12 N13 1.70e-11
R13 N12 N13 7.72e-03
C14 N13 N14 2.19e-07
L14 N13 N14 2.85e-11
R14 N13 N14 1.47e-02
C15 N14 Port2 1.53e-12
L15 N14 Port2 1.18e-10
R15 N14 Port2 2.68e+01
.ENDS GXT155R61C224KE01
